US05426119
a) Methyl 6-(4-(2-aminoethyl)phenyl)-6-(3-pyridyl)hex-5-enoate
Prepared by hydrolysis of 6-(4-(2-acetylaminoethyl)-phenyl)-6-(3-pyridyl)hex-5-enoic acid and subsequent esterification with methanol analogously to Example 8b.

reactant | 6-(4-(2-acetylaminoethyl)-phenyl)-6-(3-pyridyl)hex-5-enoic acid | C(C)(=O)NCCC1=CC=C(C=C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C21H24N2O3
reactant | methanol | CO | CH4O
product | Methyl 6-(4-(2-aminoethyl)phenyl)-6-(3-pyridyl)hex-5-enoate | NCCC1=CC=C(C=C1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C20H24N2O2
